US08455475B2
(R)-Methyl 3-(6-methoxy-2-naphthamido)-2,3-dihydro-1H-indene-5-carboxylate (B-10)
N-Ethyl-diisopropylamine (3 eq.) was added to an ice-cold solution of 6-methoxy-2-naphthoic acid (1 eq.) in methylene chloride. The reaction mixture was cooled to 0° C. and N-ethyl-N′-3-(dimethylamino)-propyl-carbodiimide hydrochloride (1.2 eq.) and 1-hydroxybenzotriazole hydrate (0.2 eq.) were then added. The mixture was stirred at this temperature for 15 min, before (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester hydrochloride (A-03 HCl) (0.989 mmol, 1 eq.) was added. The reaction mixture was then stirred at room temperature overnight. The mixture was diluted with ethyl acetate and the organic phase was washed with 10% NH4Cl solution, sat. NaHCO3 solution and sat. NaCl solution. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (silica, cyclohexane/ethyl acetate 2:1) to obtain the desired compound (B-10). Yield: 83%

reactant | N-Ethyl-diisopropylamine | 3 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 6-methoxy-2-naphthoic acid | 1 eq. | COC=1C=C2C=CC(=CC2=CC1)C(=O)O | C12H10O3
reactant | 1-hydroxybenzotriazole hydrate | 0.2 eq. | O.ON1N=NC2=C1C=CC=C2
reactant | (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester hydrochloride | 0.989 mmol, 1 eq. | Cl.COC(=O)C=1C=C2[C@@H](CCC2=CC1)N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Methyl 3-(6-methoxy-2-naphthamido)-2,3-dihydro-1H-indene-5-carboxylate | Yield: 83% | COC=1C=C2C=CC(=CC2=CC1)C(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)OC | C23H21NO4
